US04348399
A solution of 10.0 g. of 4-hexadecylaminohydrocinnamonitrile in 100 ml. of dry ether is added rapidly to a mixture of 10.2 g. of anhydrous stannous chloride and 80 ml. of ether which has been saturated with dry hydrogen chloride for 2 hours. Dry hydrogen chloride is again bubbled through the reaction mixture which is stirred for 1 hour and allowed to stand for 20 hours. The ethereal solution is decanted from the semi-solid product which is washed again with ether and then treated with water and heated to reflux for 3 hours. Cooling and extraction of the reaction mixture with ether provides 4-(hexadecylamino)cinnamaldehyde.

reactant | 4-hexadecylaminohydrocinnamonitrile | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC#N)C=C1 | C25H42N2
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
product | 4-(hexadecylamino)cinnamaldehyde | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=CC=O)C=C1 | C25H41NO
